US05278326
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-β-oxo-γ-phenyl-benzenebutanamide
The title compound, mp 153°-155° C., was prepared from 1,1-diphenylacetone (5.0 g, 0.023 mol), 2,6-diisopropylphenyl isocyanate (4.6 g, 0.023 mol) and lithium diisopropylamide (0.023 mol) using the procedure described in Example 1.

reactant | 1,1-diphenylacetone | 0.023 mol, 5.0 g | C1(=CC=CC=C1)C(C(=O)C)C1=CC=CC=C1 | C15H14O
reactant | 2,6-diisopropylphenyl isocyanate | 0.023 mol, 4.6 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.023 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)phenyl]-β-oxo-γ-phenyl-benzenebutanamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C28H31NO2
